US04931469
3-iodobenzaldehyde was prepared by oxidation of 3-iodobenzylalcohol by pyridinium chlorochromate in the presence of sodium acetate as in Example 9.

reactant | 3-iodobenzylalcohol | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 3-iodobenzaldehyde | IC=1C=C(C=O)C=CC1 | C7H5IO
